US09284323B2
Preparation of (S)-7-bromo-2-(1-tert-butoxy-2-hydroxyethyl)-3-methylnaphthalen-1-ol:
To a solution of (S)-((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl) 2-(7-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate (4.56 g, 9.02 mmol) in THF (45 mL) was added lithium triethylborohydride solution (Super Hydride, 1.0 M in THF, 36 mL, 36 mmol). The reaction was stirred at 55° C. for 2.5 h. A saturated solution of NH4Cl was added. The layers were separated, and the organic layer was dried, filtered, and concentrated in vacuo. The crude material was purified by column chromatography (EtOAc/hexanes) to give 2.84 g. 1H-NMR: 400 MHz, (CDCl3) δ: 9.77 (s, 1H), 8.37 (s, 1H), 7.50 (m, 2H), 7.10 (s, 1H), 5.26 (dd, J=9, 4 Hz, 1H), 4.20 (m, 2H), 2.48 (s, 3H), 1.25 (s, 9H) 1.21 (s, 9H).

reactant | (S)-((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl) 2-(7-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | 9.02 mmol, 4.56 g | BrC1=CC=C2C=C(C(=C(C2=C1)O)[C@@H](C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)OC(C)(C)C)C | C27H37BrO4
reactant | lithium triethylborohydride | 36 mmol, 1.0 M, 36 mL | C(C)[BH-](CC)CC.[Li+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 45 mL | C1CCOC1 | C4H8O
product | (S)-7-bromo-2-(1-tert-butoxy-2-hydroxyethyl)-3-methylnaphthalen-1-ol | BrC1=CC=C2C=C(C(=C(C2=C1)O)[C@@H](CO)OC(C)(C)C)C | C17H21BrO3
